US07678803B2
A suspension of 4-Bromo-6-hydrazino-isoquinolin-1-ylamine (0.097 g, 0.38 mmol) and 2-acetyl-5,5-dimethyl-1,3-cyclohexanedione (0.074 g, 0.41 mmol) in EtOH/Acetic acid (3:1, 7 mL) is microwaved at 150° C. for 20 min. The solvent is evaporated and the residue is dried under vacuum. Purification of the crude material using a Biotage column (0-10% MeOH/CH2Cl2) afforded 0.1223 g (80%) of 1-(1-Amino-4-bromo-isoquinolin-6-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indazol-4-one. LC/MS m/z=400 [M+H]+.

reactant | 4-Bromo-6-hydrazino-isoquinolin-1-ylamine | 0.38 mmol, 0.097 g | BrC1=CN=C(C2=CC=C(C=C12)NN)N | C9H9BrN4
reactant | 2-acetyl-5,5-dimethyl-1,3-cyclohexanedione | 0.41 mmol, 0.074 g | C(C)(=O)C1C(CC(CC1=O)(C)C)=O | C10H14O3
solvent | EtOH Acetic acid | 7 mL | CCO.C(C)(=O)O
product | 1-(1-Amino-4-bromo-isoquinolin-6-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indazol-4-one | 0.1223 g, 80% | NC1=NC=C(C2=CC(=CC=C12)N1N=C(C=2C(CC(CC12)(C)C)=O)C)Br | C19H19BrN4O
